US03935211
Preparation of 2-(3-Cyclopropyl-1,2,4-oxadiazol-5-yl)pyrazine
To a mixture of 28.7 g. of pyrazinoyl chloride in 100 ml. of xylene is added slowly a solution of 20 g. of cyclopropanecarboxamidoxime in 100 ml. of xylene. This mixture is heated under reflux for 3 hours, concentrated under reduced pressure and the residue mixed with aqueous sodium hydroxide. The mixture is filtered and the filtrate is extracted with chloroform. The chloroform solution is dried over magnesium sulfate and concentrated under reduced pressure to give crude crystals, which are recrystallized from cyclohexane to give light yellow crystals, melting point 61°-64°C.

reactant | pyrazinoyl chloride | N1=C(C=NC=C1)C(=O)Cl | C5H3ClN2O
reactant | cyclopropanecarboxamidoxime | C1(CC1)C(N)=NO | C4H8N2O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(3-Cyclopropyl-1,2,4-oxadiazol-5-yl)pyrazine | C1(CC1)C1=NOC(=N1)C1=NC=CN=C1 | C9H8N4O
